US04363816
Potassium- 3-amino-1,4,5-trimethyl-1H-pyrrole-2-carboxylate
36.6 g (0.187 mole) of ethyl 3-amino-1,4,5-trimethyl-1H-pyrrole-2-carboxylate and 11.4 g (0.213 mole) of potassium hydroxide are dissolved in 200 ml of methanol, and the obtained solution is boiled under reflux for 4 hours. The resulting solution is concentrated to dryness and used, without further purification, for the next reaction.

reactant | ethyl 3-amino-1,4,5-trimethyl-1H-pyrrole-2-carboxylate | 0.187 mole, 36.6 g | NC1=C(N(C(=C1C)C)C)C(=O)OCC | C10H16N2O2
reactant | potassium hydroxide | 0.213 mole, 11.4 g | [OH-].[K+]
solvent | methanol | 200 ml | CO | CH4O
product | Potassium- 3-amino-1,4,5-trimethyl-1H-pyrrole-2-carboxylate | NC1=C(N(C(=C1C)C)C)C(=O)[O-].[K+] | InChI=1S/C8H12N2O2.K/c1-4-5(2)10(3)7(6(4)9)8(11)12;/h9H2,1-3H3,(H,11,12);/q;+1/p-1
